US05853699
b) N-Benzyl-2-(4-hydroxybenzyl)-3-azaglutaric acid-di-tert-butyl ester
15.1 g (46.1 mmol) of N-benzyl-tyrosine-tert-butyl ester (Example a) is dissolved in 50 ml of tetrahydrofuran and mixed with 5 ml of water and 9.54 g (69 mmol) of potassium carbonate. After instillation of 9.89 g (51 mmol) of bromoacetic acid-tert-butyl ester, it is stirred for two days at 65° C. After cooling, it is filtered, concentrated by evaporation in a vacuum and the residue is chromatographed on silica gel with diethyl ether/hexane/triethylamine. The product fractions are concentrated by evaporation in a vacuum and dried.

reactant | N-benzyl-tyrosine-tert-butyl ester | 46.1 mmol, 15.1 g | C(C)(C)(C)OC([C@@H](NCC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C20H25NO3
reactant | water | 5 ml | O | H2O
reactant | potassium carbonate | 69 mmol, 9.54 g | C([O-])([O-])=O.[K+].[K+]
reactant | bromoacetic acid-tert-butyl ester | 51 mmol, 9.89 g | C(C)(C)(C)OC(CBr)=O | C6H11BrO2
solvent | tetrahydrofuran | 50 ml | O1CCCC1 | C4H8O
product | N-Benzyl-2-(4-hydroxybenzyl)-3-azaglutaric acid-di-tert-butyl ester | C(C)(C)(C)OC(C(N(CC(=O)OC(C)(C)C)CC1=CC=CC=C1)CC1=CC=C(C=C1)O)=O | C26H35NO5
